US07297709B2
3-fluoro-1,1′-biphenyl-2-carbonitrile
The desired product was prepared by substituting 2-fluoro-6-iodobenzonitrile for Example 1A and phenylboronic acid for Example 1B in Example 1C. Additionally, toluene/EtOH/H2O (3:2:1) was substituted for DME/H2O as the solvent.

reactant | 2-fluoro-6-iodobenzonitrile | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene EtOH H2O | C1(=CC=CC=C1)C.CCO.O
solvent | DME H2O | COCCOC.O
product | 3-fluoro-1,1′-biphenyl-2-carbonitrile | FC1=C(C(=CC=C1)C1=CC=CC=C1)C#N | C13H8FN
